US07468378B2
(a) Preparation of Intermediate (S)-Phenyl-2-(trityl-amino)-ethanol
To a mixture of (S)-(+)-phenylglycinol (J, 1.0 g, 7.3 mM) and triphenylmethyl chloride (2.03 g, 7.29 mM) in dichloromethane (25 mL) was added triethylamine (0.74 g, 7.29 mM). The resulting mixture was stirred at room temperature for 12 h. The mixture was diluted with ethyl acetate (75 mL) and washed with water and brine. The ethyl acetate fraction was dried (MgSO4), filtered and concentrated. The solid was used without further purification.

reactant | (S)-(+)-phenylglycinol | 7.3 mM, 1.0 g | C1=CC=C(C=C1)[C@@H](CO)N | C8H11NO
reactant | triphenylmethyl chloride | 7.29 mM, 2.03 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 7.29 mM, 0.74 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (S)-Phenyl-2-(trityl-amino)-ethanol | C1(=CC=CC=C1)[C@@H](CNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C27H25NO
